US06969710B2
N-ethyl-N-(5-fluoro-2-nitrophenyl)methanesulfonamide (Scheme 2, Method 4)
N-ethyl-methanesulfonamide (Mijs et al. J. Chem. Soc. Chem. Com. 1972 p412) (5 g 40.6 mmol) was added to a suspension of sodium hydride (1.9 g, 55% in mineral oil) in anhydrous DMF (100 mL) under nitrogen. The mixture was warmed to 55° C. for one hour and 2,4-difluoronitrobenzene (4.4 mL) was added dropwise. The reaction was stirred at 60° C. overnight, poured into water (500 mL) and the product extracted into CH2Cl2 (5×100 mL). The organic extracts were washed with water, dried over MgSO4 and evaporated to give an oily product. The remaining DMF was removed by trituration with petrol. The crude product was purified by flash chromatography (ethyl acetate:petrol 1:1) to yield the desired product which was recrystallised from ethanol. Yield 3.5 g (33%). Calculated N, % 10.68; C, % 41.22; S, % 12.23; H, % 4.23. Found N, % 10.68; C, % 41.39; S, % 12.22; H, % 4.17.

reactant | N-ethyl-methanesulfonamide | 40.6 mmol, 5 g | C(C)NS(=O)(=O)C | C3H9NO2S
reactant | sodium hydride | 1.9 g | [H-].[Na+]
reactant | 2,4-difluoronitrobenzene | 4.4 mL | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | water | 500 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-ethyl-N-(5-fluoro-2-nitrophenyl)methanesulfonamide | C(C)N(S(=O)(=O)C)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C9H11FN2O4S
